US05081121
4-Benzyloxy-2-methoxyaniline (2.9 g) and diethyl ethoxymethylenemalonate (2.7 g) were reacted in the same manner as in Experimental Example 1 to obtain 6-benzyloxy-3-ethoxycarbonyl-8-methoxy-4(1H)-quinolone (3.5 g). The compound (2.0 g) was subjected to hydrolysis and decarboxylation in the same manner as in Experimental Example 8 to obtain 6-benzyloxy-8-methoxy-4(1H)-quinolone (compound 26, 1.0 g).

reactant | 4-Benzyloxy-2-methoxyaniline | 2.9 g | C(C1=CC=CC=C1)OC1=CC(=C(N)C=C1)OC | C14H15NO2
reactant | diethyl ethoxymethylenemalonate | 2.7 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 6-benzyloxy-3-ethoxycarbonyl-8-methoxy-4(1H)-quinolone | 3.5 g | C(C1=CC=CC=C1)OC=1C=C2C(C(=CNC2=C(C1)OC)C(=O)OCC)=O | C20H19NO5
